US04038412
A mixture of 174.6 grams (1.15 mole) of 3-phenylpropyl thiol, 158.8 grams (1.15 mole) of p-fluoroacetophenone and 158.8 grams (1.15 mole) of potassium carbonate in 500 ml. of dry dimethylformamide is stirred at its reflux temperature for approximately 24 hours. The reaction mixture is cooled, water added and extracted with methylene chloride. The extract is washed with water, a solution of 2 N sodium hydroxide, dried over anhydrous sodium sulfate and evaporated in vacuo. The residue is recrystallized from isopropyl alcohol to yield the desired p-(3-phenylpropylthio)acetophenone having a m.p. of 76°-8° C.

reactant | 3-phenylpropyl thiol | 1.15 mole, 174.6 grams | C1(=CC=CC=C1)CCCS | C9H12S
reactant | p-fluoroacetophenone | 1.15 mole, 158.8 grams | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | potassium carbonate | 1.15 mole, 158.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | p-(3-phenylpropylthio)acetophenone | C1(=CC=CC=C1)CCCSC1=CC=C(C=C1)C(C)=O | C17H18OS
